US09145415B2
To a solution of (9H-fluoren-9-yl)methyl tert-butyl (4-methoxy-2-(2-methoxyethyl)butane-1,2-diyl)dicarbamate (G22, 269 mg) in methylene chloride (2 mL), trifluoroacetic acid (2 mL) was added at room temperature, and the mixture was stirred at the same temperature for 5 hours. The solvent was evaporated under reduced pressure, and then ethyl acetate and saturated aqueous sodium hydrogencarbonate were added to the residue. The organic layer was separated, washed with saturated aqueous sodium chloride, and then dried over anhydrous sodium sulfate, and the solvent was evaporated under reduced pressure to obtain (9H-fluoren-9-yl)methyl (2-amino-4-methoxy-2-(2-methoxyethyl)butyl)carbamate (G23, 186 mg).

reactant | (9H-fluoren-9-yl)methyl tert-butyl (4-methoxy-2-(2-methoxyethyl)butane-1,2-diyl)dicarbamate | 269 mg | COCCC(CNC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)(CCOC)NC(OC(C)(C)C)=O | C28H38N2O6
solvent | methylene chloride | 2 mL | C(Cl)Cl | CH2Cl2
solvent | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | (9H-fluoren-9-yl)methyl (2-amino-4-methoxy-2-(2-methoxyethyl)butyl)carbamate | NC(CNC(OCC1C2=CC=CC=C2C=2C=CC=CC12)=O)(CCOC)CCOC | C23H30N2O4
